US06489046B1
(4) Preparation of 8,15-benzo[a]pentacenequinone
In an atmosphere of argon, 6.9 g (33 mmole) of 1,4-anthraquinone, 9.8 g (25 mmole) of 1-(bromomethyl)-2-(dibromomethyl)naphthalene and 25 g (660 mmole) of sodium iodide were dissolved into 85 ml of dry dimethylformamide. After the exothermic reaction was completed, the reaction solution was heated to 70° C. and stirred for 8 hours. After the reaction was completed, the formed crystals were separated by filtration and washed with methanol and water and light yellow needle crystals of 8,15-benzo[a]pentacenequinone were obtained in the quantitative amount.

reactant | 1,4-anthraquinone | 33 mmole, 6.9 g | C1(C=CC(C2=CC3=CC=CC=C3C=C12)=O)=O | C14H8O2
reactant | 1-(bromomethyl)-2-(dibromomethyl)naphthalene | 25 mmole, 9.8 g | BrCC1=C(C=CC2=CC=CC=C12)C(Br)Br | C12H9Br3
reactant | sodium iodide | 660 mmole, 25 g | [I-].[Na+]
solvent | dimethylformamide | 85 ml | CN(C=O)C | C3H7NO
product | 8,15-benzo[a]pentacenequinone | C1=CC=CC=2C1=C1C=C3C(C4=CC5=CC=CC=C5C=C4C(C3=CC1=CC2)=O)=O | C26H14O2
